US08648066B2
4-({2-amino-5-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]pyridin-3-yl}sulfinyl)-2-methylbutan-2-ol.
Prepared according to the method of example 5 by using 4-[(2-amino-5-bromopyridin-3-yl)sulfinyl]-2-methylbutan-2-ol (reagent preparation 41) and [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid (reagent preparation 23) in step 1. 1H NMR (400 MHz, Methanol-d4): 8.40 (s, 1H), 8.34 (s, 1H), 8.03 (s, 1H), 7.51 (s, 1H), 7.42 (d, 1H), 7.05 (d, 1H), 4.68 (s, 2H), 4.33 (m, 2H), 3.94 (m, 2H), 3.20 (m, 2H), 2.79 (t, 2H), 2.47 (s, 2H), 1.80 (m, 2H), 1.67 (t, 2H), 1.21 (s, 6H), 0.88 (s, 6H); MS (EI) for C29H37N5O3S: 536 (MH+).

reactant | 4-[(2-amino-5-bromopyridin-3-yl)sulfinyl]-2-methylbutan-2-ol | NC1=NC=C(C=C1S(=O)CCC(C)(O)C)Br | C10H15BrN2O2S
reactant | [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)B(O)O)C | C19H24BN3O3
product | 4-({2-amino-5-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]pyridin-3-yl}sulfinyl)-2-methylbutan-2-ol | NC1=NC=C(C=C1S(=O)CCC(C)(O)C)C=1C=CC2=C(CN(CCO2)C2=NC=NC=3CCC(CC23)(C)C)C1 | C29H37N5O3S
